US07932272B2
To a solution of 5-nitrothiophene-2-carbonitrile (1.79 g, 11.6 mmol) and 3-bromophenol (2.00 g, 11.6 mmol) in dimethylsulfoxide (22 mL) was added potassium carbonate (1.76 g, 12.8 mmol), and the solution was stirred at 70° C. for 3 hours. The reaction solution was allowed to room temperature, ethyl acetate and water were added for partitioning, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and 5-(3-bromophenoxy)-thiophene-2-carbonitrile (2.00 g, 62%) was obtained as a yellow oil.

reactant | 5-nitrothiophene-2-carbonitrile | 11.6 mmol, 1.79 g | [N+](=O)([O-])C1=CC=C(S1)C#N | C5H2N2O2S
reactant | 3-bromophenol | 11.6 mmol, 2.00 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 12.8 mmol, 1.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 22 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-(3-bromophenoxy)-thiophene-2-carbonitrile | 2.00 g, 62% | BrC=1C=C(OC2=CC=C(S2)C#N)C=CC1 | C11H6BrNOS
